US07220856B2
Preparation of 7-Chloro-4-[4-(2-pyridinylaminocarbonyl)piperazin-1-yl]quinoline
As described for example 78, 2-aminopyridine (142 mg, 1.51 mmol), 4-nitrophenyl chloroformate (304 mg, 1.51 mmol), diisopropyl(ethyl)amine (650 mg, 5.05 mmol), and 7-chloro-4-(piperazin-1-yl)quinoline (250 mg, 1.01 mmol) are reacted affording the title product after flash chromatography with CH2Cl2-MeOH.

reactant | 2-aminopyridine | 1.51 mmol, 142 mg | NC1=NC=CC=C1 | C5H6N2
reactant | 4-nitrophenyl chloroformate | 1.51 mmol, 304 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropyl(ethyl)amine | 5.05 mmol, 650 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-(piperazin-1-yl)quinoline | 1.01 mmol, 250 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 7-Chloro-4-[4-(2-pyridinylaminocarbonyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1=NC=CC=C1 | C19H18ClN5O
